* NGSPICE file created from strongarm_flat.ext - technology: sky130A

.subckt strongarm_flat VINP VINN VSS
X0 VSS VSS VSS w_n2114_1605# sky130_fd_pr__pfet_01v8 ad=0.19875 pd=1.28 as=83.091 ps=174.75999 w=0.75 l=0.15
X1 VSS VSS VSS w_n2114_1605# sky130_fd_pr__pfet_01v8 ad=0.19875 pd=1.28 as=0 ps=0 w=0.75 l=0.15
X2 VSS VSS VSS w_n2114_1605# sky130_fd_pr__pfet_01v8 ad=0.19875 pd=1.28 as=0 ps=0 w=0.75 l=0.15
X3 a_75_805# VINN a_75_805# VSS sky130_fd_pr__nfet_01v8 ad=0.23055 pd=1.4 as=4.1499 ps=25.2 w=0.87 l=0.15
X4 a_75_805# VINN a_75_805# VSS sky130_fd_pr__nfet_01v8 ad=0.23055 pd=1.4 as=0 ps=0 w=0.87 l=0.15
X5 a_75_805# VINN a_75_805# VSS sky130_fd_pr__nfet_01v8 ad=0.23055 pd=1.4 as=0 ps=0 w=0.87 l=0.15
X6 VSS VSS VSS w_n2114_1605# sky130_fd_pr__pfet_01v8 ad=0.265 pd=2.06 as=0 ps=0 w=0.5 l=0.15
X7 VSS VSS VSS w_n2114_1605# sky130_fd_pr__pfet_01v8 ad=0.19875 pd=1.28 as=0 ps=0 w=0.75 l=0.15
X8 VSS VSS a_n121_n42# VSS sky130_fd_pr__nfet_01v8 ad=0.2226 pd=1.9 as=0.2226 ps=1.9 w=0.42 l=0.15
X9 a_n1269_805# VINP a_n1269_805# VSS sky130_fd_pr__nfet_01v8 ad=0.23055 pd=1.4 as=4.1499 ps=25.2 w=0.87 l=0.15
X10 VSS VSS VSS VSS sky130_fd_pr__nfet_01v8 ad=0.265 pd=2.06 as=1.8126 ps=14.26 w=0.5 l=0.15
X11 a_n1269_805# VINP a_n1269_805# VSS sky130_fd_pr__nfet_01v8 ad=0.23055 pd=1.4 as=0 ps=0 w=0.87 l=0.15
X12 a_n1269_805# VINP a_n1269_805# VSS sky130_fd_pr__nfet_01v8 ad=0.23055 pd=1.4 as=0 ps=0 w=0.87 l=0.15
X13 a_75_805# VINN a_75_805# VSS sky130_fd_pr__nfet_01v8 ad=0.23055 pd=1.4 as=0 ps=0 w=0.87 l=0.15
X14 a_75_805# VINN a_75_805# VSS sky130_fd_pr__nfet_01v8 ad=0.23055 pd=1.4 as=0 ps=0 w=0.87 l=0.15
X15 a_75_805# VINN a_75_805# VSS sky130_fd_pr__nfet_01v8 ad=0.23055 pd=1.4 as=0 ps=0 w=0.87 l=0.15
X16 VSS VSS VSS w_n2114_1605# sky130_fd_pr__pfet_01v8 ad=0.19875 pd=1.28 as=0 ps=0 w=0.75 l=0.15
X17 VSS VSS VSS w_n2114_1605# sky130_fd_pr__pfet_01v8 ad=0.19875 pd=1.28 as=0 ps=0 w=0.75 l=0.15
X18 VSS VSS VSS VSS sky130_fd_pr__nfet_01v8 ad=0.265 pd=2.06 as=0 ps=0 w=0.5 l=0.15
X19 a_n1269_805# VINP a_n1269_805# VSS sky130_fd_pr__nfet_01v8 ad=0.23055 pd=1.4 as=0 ps=0 w=0.87 l=0.15
X20 VSS VSS VSS VSS sky130_fd_pr__nfet_01v8 ad=0.1325 pd=1.03 as=0 ps=0 w=0.5 l=0.15
X21 a_n1269_805# VINP a_n1269_805# VSS sky130_fd_pr__nfet_01v8 ad=0.23055 pd=1.4 as=0 ps=0 w=0.87 l=0.15
X22 VSS VSS VSS VSS sky130_fd_pr__nfet_01v8 ad=0.1325 pd=1.03 as=0 ps=0 w=0.5 l=0.15
X23 VSS VSS VSS w_n2114_1605# sky130_fd_pr__pfet_01v8 ad=0.265 pd=2.06 as=0 ps=0 w=0.5 l=0.15
X24 a_n1269_805# VINP a_n1269_805# VSS sky130_fd_pr__nfet_01v8 ad=0.23055 pd=1.4 as=0 ps=0 w=0.87 l=0.15
X25 VSS VSS VSS w_n2114_1605# sky130_fd_pr__pfet_01v8 ad=0.3975 pd=2.56 as=0 ps=0 w=0.75 l=0.15
X26 a_n1269_805# VINP a_n1269_805# VSS sky130_fd_pr__nfet_01v8 ad=0.4611 pd=2.8 as=0 ps=0 w=0.87 l=0.15
X27 a_n1269_805# VINP a_n1269_805# VSS sky130_fd_pr__nfet_01v8 ad=0.23055 pd=1.4 as=0 ps=0 w=0.87 l=0.15
X28 a_75_805# VINN a_75_805# VSS sky130_fd_pr__nfet_01v8 ad=0.23055 pd=1.4 as=0 ps=0 w=0.87 l=0.15
X29 VSS VSS VSS w_n2114_1605# sky130_fd_pr__pfet_01v8 ad=0.3975 pd=2.56 as=0 ps=0 w=0.75 l=0.15
X30 VSS VSS VSS w_n2114_1605# sky130_fd_pr__pfet_01v8 ad=0.19875 pd=1.28 as=0 ps=0 w=0.75 l=0.15
X31 VSS VSS VSS w_n2114_1605# sky130_fd_pr__pfet_01v8 ad=0.19875 pd=1.28 as=0 ps=0 w=0.75 l=0.15
X32 VSS VSS VSS w_n2114_1605# sky130_fd_pr__pfet_01v8 ad=0.19875 pd=1.28 as=0 ps=0 w=0.75 l=0.15
X33 VSS VSS VSS w_n2114_1605# sky130_fd_pr__pfet_01v8 ad=0.1325 pd=1.03 as=0 ps=0 w=0.5 l=0.15
X34 VSS VSS VSS w_n2114_1605# sky130_fd_pr__pfet_01v8 ad=0.19875 pd=1.28 as=0 ps=0 w=0.75 l=0.15
X35 VSS VSS VSS w_n2114_1605# sky130_fd_pr__pfet_01v8 ad=0.1325 pd=1.03 as=0 ps=0 w=0.5 l=0.15
X36 a_75_805# VINN a_75_805# VSS sky130_fd_pr__nfet_01v8 ad=0.4611 pd=2.8 as=0 ps=0 w=0.87 l=0.15
.ends

