.subckt strongarm vinp vinn outp outn clk vdd vss
Xtail tail clk vss vss sky130_fd_pr__nfet_01v8 W=0.42 L=0.15
Xinp drn_p vinp tail vss sky130_fd_pr__nfet_01v8 W=7.0 L=0.15
Xinn drn_n vinn tail vss sky130_fd_pr__nfet_01v8 W=7.0 L=0.15
Xxnp outp outn drn_p vss sky130_fd_pr__nfet_01v8 W=1.0 L=0.15
Xxnn outn outp drn_n vss sky130_fd_pr__nfet_01v8 W=1.0 L=0.15
Xxpp outp outn vdd vdd sky130_fd_pr__pfet_01v8 W=4.5 L=0.15
Xxpn outn outp vdd vdd sky130_fd_pr__pfet_01v8 W=4.5 L=0.15
Xrstp outp clk vdd vdd sky130_fd_pr__pfet_01v8 W=1.0 L=0.15
Xrstn outn clk vdd vdd sky130_fd_pr__pfet_01v8 W=1.0 L=0.15
.ends strongarm