* NGSPICE file created from strongarm_flat.ext - technology: sky130A

.subckt strongarm_flat CLK GND VINP VINN OUTN OUTP VDD
X0 VDD OUTP OUTN VDD sky130_fd_pr__pfet_01v8 ad=3.375 pd=10.5 as=0.7425 ps=4.83 w=4.5 l=0.15
X1 OUTP OUTN VDD VDD sky130_fd_pr__pfet_01v8 ad=0.7425 pd=4.83 as=1.215 ps=9.54 w=4.5 l=0.15
X2 VDD OUTP OUTN VDD sky130_fd_pr__pfet_01v8 ad=0.7425 pd=4.83 as=0.7425 ps=4.83 w=4.5 l=0.15
X3 OUTP OUTN a_1092_58# GND sky130_fd_pr__nfet_01v8 ad=0.165 pd=1.33 as=0.27 ps=2.54 w=1 l=0.15
X4 OUTN OUTP VDD VDD sky130_fd_pr__pfet_01v8 ad=0.7425 pd=4.83 as=0.7425 ps=4.83 w=4.5 l=0.15
X5 a_1092_58# VINP VDD GND sky130_fd_pr__nfet_01v8 ad=1.155 pd=7.33 as=1.89 ps=14.54 w=7 l=0.15
X6 VDD OUTN OUTP VDD sky130_fd_pr__pfet_01v8 ad=0.7425 pd=4.83 as=0.7425 ps=4.83 w=4.5 l=0.15
X7 VDD VINP a_1092_58# GND sky130_fd_pr__nfet_01v8 ad=1.155 pd=7.33 as=1.155 ps=7.33 w=7 l=0.15
X8 OUTP OUTN VDD VDD sky130_fd_pr__pfet_01v8 ad=0.7425 pd=4.83 as=0.7425 ps=4.83 w=4.5 l=0.15
X9 VDD CLK OUTN VDD sky130_fd_pr__pfet_01v8 ad=0.75 pd=3.5 as=0.165 ps=1.33 w=1 l=0.15
X10 a_100_58# VINN a_16_58# GND sky130_fd_pr__nfet_01v8 ad=1.155 pd=7.33 as=1.155 ps=7.33 w=7 l=0.15
X11 OUTP OUTN VDD VDD sky130_fd_pr__pfet_01v8 ad=0.7425 pd=4.83 as=0.7425 ps=4.83 w=4.5 l=0.15
X12 a_16_n312# OUTP OUTN GND sky130_fd_pr__nfet_01v8 ad=0.75 pd=3.5 as=0.165 ps=1.33 w=1 l=0.15
X13 a_100_58# VINN a_16_58# GND sky130_fd_pr__nfet_01v8 ad=1.155 pd=7.33 as=1.89 ps=14.54 w=7 l=0.15
X14 a_1092_58# VINP VDD GND sky130_fd_pr__nfet_01v8 ad=1.155 pd=7.33 as=1.155 ps=7.33 w=7 l=0.15
X15 OUTN OUTP VDD VDD sky130_fd_pr__pfet_01v8 ad=0.7425 pd=4.83 as=1.215 ps=9.54 w=4.5 l=0.15
X16 a_16_58# VINN a_100_58# GND sky130_fd_pr__nfet_01v8 ad=1.155 pd=7.33 as=1.155 ps=7.33 w=7 l=0.15
X17 OUTN CLK VDD VDD sky130_fd_pr__pfet_01v8 ad=0.165 pd=1.33 as=0.27 ps=2.54 w=1 l=0.15
X18 VDD CLK GND GND sky130_fd_pr__nfet_01v8 ad=0.315 pd=2.34 as=0.1134 ps=1.38 w=0.42 l=0.15
X19 a_16_58# VINN a_100_58# GND sky130_fd_pr__nfet_01v8 ad=1.155 pd=7.33 as=1.155 ps=7.33 w=7 l=0.15
X20 a_1092_58# OUTN OUTP GND sky130_fd_pr__nfet_01v8 ad=0.75 pd=3.5 as=0.165 ps=1.33 w=1 l=0.15
X21 OUTN OUTP a_16_n312# GND sky130_fd_pr__nfet_01v8 ad=0.165 pd=1.33 as=0.27 ps=2.54 w=1 l=0.15
X22 VDD VINP a_1092_58# GND sky130_fd_pr__nfet_01v8 ad=1.155 pd=7.33 as=1.155 ps=7.33 w=7 l=0.15
X23 VDD VINP a_1092_58# GND sky130_fd_pr__nfet_01v8 ad=1.155 pd=7.33 as=1.155 ps=7.33 w=7 l=0.15
X24 a_100_58# VINN a_16_58# GND sky130_fd_pr__nfet_01v8 ad=1.155 pd=7.33 as=1.155 ps=7.33 w=7 l=0.15
X25 a_1092_58# VINP VDD GND sky130_fd_pr__nfet_01v8 ad=1.155 pd=7.33 as=1.155 ps=7.33 w=7 l=0.15
X26 a_16_58# VINN a_100_58# GND sky130_fd_pr__nfet_01v8 ad=1.155 pd=7.33 as=1.155 ps=7.33 w=7 l=0.15
X27 a_16_58# VINN a_100_58# GND sky130_fd_pr__nfet_01v8 ad=5.25 pd=15.5 as=1.155 ps=7.33 w=7 l=0.15
X28 VDD OUTN OUTP VDD sky130_fd_pr__pfet_01v8 ad=3.375 pd=10.5 as=0.7425 ps=4.83 w=4.5 l=0.15
X29 VDD CLK OUTP VDD sky130_fd_pr__pfet_01v8 ad=0.75 pd=3.5 as=0.165 ps=1.33 w=1 l=0.15
X30 VDD VINP a_1092_58# GND sky130_fd_pr__nfet_01v8 ad=5.25 pd=15.5 as=1.155 ps=7.33 w=7 l=0.15
X31 a_100_58# VINN a_16_58# GND sky130_fd_pr__nfet_01v8 ad=1.155 pd=7.33 as=1.155 ps=7.33 w=7 l=0.15
X32 VDD OUTP OUTN VDD sky130_fd_pr__pfet_01v8 ad=0.7425 pd=4.83 as=0.7425 ps=4.83 w=4.5 l=0.15
X33 a_1092_58# VINP VDD GND sky130_fd_pr__nfet_01v8 ad=1.155 pd=7.33 as=1.155 ps=7.33 w=7 l=0.15
X34 OUTN OUTP VDD VDD sky130_fd_pr__pfet_01v8 ad=0.7425 pd=4.83 as=0.7425 ps=4.83 w=4.5 l=0.15
X35 VDD OUTN OUTP VDD sky130_fd_pr__pfet_01v8 ad=0.7425 pd=4.83 as=0.7425 ps=4.83 w=4.5 l=0.15
X36 OUTP CLK VDD VDD sky130_fd_pr__pfet_01v8 ad=0.165 pd=1.33 as=0.27 ps=2.54 w=1 l=0.15
C0 m1_112_1538# a_16_58# 0.18689f
C1 m2_n704_480# VINP 0
C2 OUTP a_1092_58# 0.22526f
C3 m2_n704_480# m1_112_1538# 0.12713f
C4 OUTN VINP 0.00237f
C5 CLK a_100_58# 0.0012f
C6 VINN VINP 0.00865f
C7 CLK VDD 0.17292f
C8 OUTN m1_112_1538# 0.0341f
C9 VDD a_100_58# 0.28705f
C10 m1_112_1538# a_16_n312# 0.05642f
C11 m1_112_1538# VINN 0.19407f
C12 a_16_58# a_1092_58# 0.008f
C13 CLK OUTP 0.00501f
C14 OUTP a_100_58# 0.01723f
C15 VDD OUTP 1.05405f
C16 OUTN a_1092_58# 0.04045f
C17 VINN a_1092_58# 0.0018f
C18 CLK a_16_58# 0.00123f
C19 a_16_58# a_100_58# 0.53157f
C20 CLK m2_n704_480# 0
C21 VDD a_16_58# 0.3987f
C22 m2_n704_480# a_100_58# 0.02571f
C23 VDD m2_n704_480# 0.22096f
C24 CLK OUTN 0.00501f
C25 OUTN a_100_58# 0.00336f
C26 CLK VINN 0.01442f
C27 a_16_58# OUTP 0.02691f
C28 a_16_n312# a_100_58# 0.00165f
C29 VINN a_100_58# 0.06574f
C30 OUTN VDD 0.88646f
C31 VDD a_16_n312# 0.00282f
C32 m2_n704_480# OUTP 0.12003f
C33 VDD VINN 0.23203f
C34 OUTN OUTP 0.15601f
C35 OUTP a_16_n312# 0.05521f
C36 VINN OUTP 0.05166f
C37 m2_n704_480# a_16_58# 0.0278f
C38 OUTN a_16_58# 0.00277f
C39 a_16_58# a_16_n312# 0.01382f
C40 a_16_58# VINN 0.0951f
C41 OUTN m2_n704_480# 0.05725f
C42 m2_n704_480# a_16_n312# 0.00575f
C43 m2_n704_480# VINN 0.02986f
C44 OUTN a_16_n312# 0.03593f
C45 OUTN VINN 0.00118f
C46 VINN a_16_n312# 0.00838f
C47 m1_112_1538# VINP 0.07652f
C48 VINP a_1092_58# 0.14054f
C49 m1_112_1538# a_1092_58# 0.07615f
C50 VINP a_100_58# 0
C51 CLK m1_112_1538# 0.00771f
C52 VDD VINP 0.19653f
C53 m1_112_1538# a_100_58# 0.16261f
C54 VDD m1_112_1538# 0.56809f
C55 OUTP VINP 0.02341f
C56 m1_112_1538# OUTP 0.14726f
C57 a_1092_58# a_100_58# 0.00726f
C58 VDD a_1092_58# 0.82199f
C59 OUTN GND 0.46836f
C60 OUTP GND 2.29611f
C61 VINP GND 0.69874f
C62 VINN GND 0.6631f
C63 CLK GND 0.27117f
C64 VDD GND 8.8035f
C65 m2_n704_480# GND 0.18191f $ **FLOATING
C66 m1_112_1538# GND 1.16443f $ **FLOATING
C67 a_16_n312# GND 0.08388f
C68 a_1092_58# GND 0.58651f
C69 a_100_58# GND 0.03517f
C70 a_16_58# GND 0.04807f
.ends

